US08536209B2
2-Butyl-5-phenyl-oxazole-4-carboxylic acid [2-(5-acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 2-butyl-5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(O1)CN1N=CC(=N1)N | C11H14N4O3
reactant | 2-butyl-5-phenyl-oxazole-4-carboxylic acid | C(CCC)C=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C14H15NO3
product | 2-Butyl-5-phenyl-oxazole-4-carboxylic acid [2-(5-acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=CC=CC=C1)CCCC | C23H23N5O4
